US06333358B1
In 7 ml of ethanol was dissolved 757 mg of N-acetyl-N-[2-(propen-1-yl)benzyl]-2-phenoxyaniline (a mixture of the geometrical isomers at a ratio of about 3:2), and 15 mg of platinum oxide was added, followed by stirring under a hydrogen atmosphere at room temperature for 3 hours. The catalyst in the reaction solution was removed by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:4) to give 647 mg of N-acetyl-N-(2-propylbenzyl)-2-phenoxyaniline as an oil.

reactant | N-acetyl-N-[2-(propen-1-yl)benzyl]-2-phenoxyaniline | 757 mg | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C=CC | C24H23NO2
solvent | ethanol | 7 ml | C(C)O | C2H6O
catalyst | platinum oxide | 15 mg | [Pt]=O
product | N-acetyl-N-(2-propylbenzyl)-2-phenoxyaniline | 647 mg | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)CCC | C24H25NO2
